US06906063B2
To a solution of N-(2-aminopyrimidin-5-yl)(tert-butoxy)carboxamide (0.237 g, 1.0 mmol) in pyridine (1 mL) was added phthaloyl dichloride (0.144 mL, 1.0 mmol). The resulting suspension was stirred at 45° C. for 2 hr, diluted with EtOAc, washed with water and brine, dried and concentrated in vacuo to give crude (tert-butoxy)-N-[2-(1,3-dioxobenzo[c]azolidin-2-yl)pyrimidin-5-yl]carboxamide (0.31 g). ES-MS (M+H)+=341; (M+H−tBu)+=285.

reactant | N-(2-aminopyrimidin-5-yl)(tert-butoxy)carboxamide | 1.0 mmol, 0.237 g | NC1=NC=C(C=N1)NC(=O)OC(C)(C)C | C9H14N4O2
reactant | phthaloyl dichloride | 1.0 mmol, 0.144 mL | C(C=1C(C(=O)Cl)=CC=CC1)(=O)Cl | C8H4Cl2O2
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (tert-butoxy)-N-[2-(1,3-dioxobenzo[c]azolidin-2-yl)pyrimidin-5-yl]carboxamide | 0.31 g | C(C)(C)(C)OC(=O)NC=1C=NC(=NC1)N1C(C2=C(C1=O)C=CC=C2)=O | C17H16N4O4
